US07129238B2
In analogy to example 16.4, (RS)-N-(4-cyano-benzyl)-2-(3-hydroxy-phenyl)-2-methoxy-acetamide was alkylated with 2-iodopropane/cesium carbonate in DMF to give (RS)-N-(4-cyano-benzyl)-2-(3-isopropoxy-phenyl)-2-methoxy-acetamide as a colorless oil. MS 339.2 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-(3-hydroxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC(=CC=C2)O)=O)C=C1 | C17H16N2O3
reactant | 2-iodopropane cesium carbonate | IC(C)C.C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (RS)-N-(4-cyano-benzyl)-2-(3-isopropoxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC(=CC=C2)OC(C)C)=O)C=C1 | C20H22N2O3
